US06479531B1
3-[(5-Cycloheptylmethyl-2-phenyl-1H-imidazole-4-carbonyl)-amino]-benzoic Acid
The title compound was prepared according to the procedure of Example 20, with the modification that benzaldehyde was used in step b instead of 2-naphthaldehyde and 3-amino-benzoic acid benzyl ester was used in step d instead of 5-amino-isophthalic acid dibenzyl ester. 1H NMR (300 MHz, d6-DMSO) 13.00 (1H, br s), 9.86 (1H, s), 8.51 (1H, s), 8.07 (2H, d), 7.99 (1H, d), 7.63 (1H, d), 7.42 (4H, m), 2.94 (2H, d), 1.98 (1H, m), 1.66-1.22 (12H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 59.97; H, 7.32; N, 8.72%; C32H44N4O8.1.5 H2O requires: C, 60.04; H, 7.41; N, 8.75%.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-naphthaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | 5-amino-isophthalic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C1=CC(C(=O)OCC2=CC=CC=C2)=CC(=C1)N)=O | C22H19NO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | H2O | O | H2O
solvent | water dioxan | O.O1CCOCC1
product | 3-[(5-Cycloheptylmethyl-2-phenyl-1H-imidazole-4-carbonyl)-amino]-benzoic Acid | C1(CCCCCC1)CC1=C(N=C(N1)C1=CC=CC=C1)C(=O)NC=1C=C(C(=O)O)C=CC1 | C25H27N3O3
